US04956379
A mixture of methyl [3-[2-(4,5-diphenyl-1H-pyrazol-1-yl)-ethyl)phenoxy]acetate (0.42 g, 1 mmol), 3N NaOH solution (1.0 mL, 3 mmol) and methanol (30 mL) was heated on a steam bath for 15 minutes before being concentrated in vacuo. The residue was diluted with water, 1N HCl solution added until pH=1 and the mixture extracted with CH2Cl2. The combined organic phase was washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in CH2Cl° and diluted with hexanes to furnish [3-[2-(4,5-diphenyl-1H-pyrazole-1-yl)ethyl]phenoxy]acetic acid (0.28 g, 68%) m.p. 133°-138° C.

reactant | methyl [3-[2-(4,5-diphenyl-1H-pyrazol-1-yl)-ethyl)phenoxy]acetate | 1 mmol, 0.42 g | C1(=CC=CC=C1)C=1C=NN(C1C1=CC=CC=C1)CCC=1C=C(OCC(=O)OC)C=CC1 | C26H24N2O3
reactant | NaOH | 3 mmol, 3N, 1.0 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | [3-[2-(4,5-diphenyl-1H-pyrazole-1-yl)ethyl]phenoxy]acetic acid | 0.28 g, 68% | C1(=CC=CC=C1)C=1C=NN(C1C1=CC=CC=C1)CCC=1C=C(OCC(=O)O)C=CC1 | C25H22N2O3
